US06589977B1
To a solution of 2,3-bis(5-methoxy-1-methyl-1H-indol-3-yl)-N-methylmaleimide (70 mg, 0.16 mmol) in DMF (2 mL) was added a small amount of 10% palladium-carbon, and the whole was stirred at room temperature for 1 day under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=2:1) to obtain 3,4-bis(5-methoxy-1-methyl-1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine (42 mg, 60.4%) as pale red solids.

reactant | 2,3-bis(5-methoxy-1-methyl-1H-indol-3-yl)-N-methylmaleimide | 0.16 mmol, 70 mg | COC=1C=C2C(=CN(C2=CC1)C)C=1C(=O)N(C(C1C1=CN(C2=CC=C(C=C12)OC)C)=O)C | C25H23N3O4
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | palladium-carbon | [C].[Pd]
product | 3,4-bis(5-methoxy-1-methyl-1H-indol-3-yl)-1-methyl-2,5-dioxopyrrolidine | 42 mg, 60.4% | COC=1C=C2C(=CN(C2=CC1)C)C1C(N(C(C1C1=CN(C2=CC=C(C=C12)OC)C)=O)C)=O | C25H25N3O4
